US04575501
2-[2-(2,3-dimethylphenyl)-hydrazino]-2-thiazoline
13.6 g (0.1 mol) of 2,3-dimethylphenylhydrazine were dissolved in 50 ml of toluene, and a solution of 12.8 (5% excess) of 2-chloroethyl isothiocyanate in 25 ml of toluene was added in the course of 15 minutes, while stirring and cooling with ice water, and the mixture was further stirred for 2 hours at room temperature and for 2 hours under reflux. The product was filtered off with suction when cold and was recrystallised from isopropanol. Mp. 220° to 221° (decomposition) (hydrochloride), 13.5 g (52.5% of theory).

reactant | 2,3-dimethylphenylhydrazine | 0.1 mol, 13.6 g | CC1=C(C=CC=C1C)NN | C8H12N2
reactant | 2-chloroethyl isothiocyanate | ClCCN=C=S | C3H4ClNS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(2,3-dimethylphenyl)-hydrazino]-2-thiazoline | CC1=C(C=CC=C1C)NNC=1SCCN1 | C11H15N3S
